US08664401B2
Step B) (2R)-4-[4-(4-fluorophenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
A solution of 1.0 M aqueous HCl (2.76 mL) was added slowly to a solution of (2R)-4-[4-(4-fluorophenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (257 mg, 0.55 mmol) in 2-propanol (15 mL) at room temperature. The reaction was allowed to stir at room temperature overnight. After 18 hours the reaction was concentrated to afford a brown solid. Crude material was triturated in ethyl acetate (50 mL) for 1 hour; the solid was collected via filtration and washed with hexanes (20 mL). The solid was allowed to dry on the filter under high vacuum to afford an off-white solid. Yield 153 mg, 73%. MS (APCI) m/z 383.6 (M+H), 1H NMR (400 MHz, DMSO-d6) δ ppm 1.55 (s, 3H) 2.08-2.19 (m, 1H) 2.34-2.44 (m, 1H) 3.08 (s, 3H) 3.64-3.80 (m, 1H) 4.04-4.13 (m, 1H) 6.62 (dd, J=7.02, 2.15 Hz, 1H) 6.67 (d, J=1.95 Hz, 1H) 7.20-7.41 (m, 2H) 7.64-7.84 (m, 3H) 11.12 (br. s., 1H)

reactant | HCl | 1.0 M, 2.76 mL | Cl | ClH
reactant | (2R)-4-[4-(4-fluorophenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.55 mmol, 257 mg | FC1=CC=C(C=C1)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C22H27FN2O6S
solvent | 2-propanol | 15 mL | CC(C)O | C3H8O
product | (2R)-4-[4-(4-fluorophenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | FC1=CC=C(C=C1)C1=CC(N(C=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O | C17H19FN2O5S
